Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
morphine / Keflex
 
Attending: ___.
 
Chief Complaint:
trauma: 

C2 lamina fracture 
humeral head fracture (acute on chronic)
left ___ rib fracture non displaced
pubic rami fracture. 

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ year old female with history notable for
multiple (~20) fractures, osteoporosis, and degenerative 
cervical
spine disease, who presents with neck pain after fall. The
patient tripped on a carpet and fell at her assisted living
facility earlier this evening. She sustained lacerations to her
head and left wrist, and was brought in to the ED for 
evaluation.
The patient does complain of midline neck pain at the base of 
the
skull; the pain does not radiate into either arm. She does have
pain at baseline in her left shoulder, and of note, is scheduled
for a left shoulder replacement in 3 weeks.
She denies any numbness or tingling in her hands or feet and has
no new weakness.
The patient reports that she has been told she has severe
degenerative disease of her cervical spine and should wear a
cervical collar for protection.

 
Past Medical History:
 CKD
- Osteoporosis
- Anemia
- Dysphagia
- Cervical radiculopathy
- Polyneuropathy
- Frequent falls

- Hx Basal cell carcinoma
- Hx Lentigo maligna
- Hx Squamous cell carcinoma of skin
- Hx Ankle fracture
- Hx Humerus fracture, proximal w/ shoulder arthroplasty ___
 
Social History:
___
Family History:
Mother with facial cancer. Didn't know her father. Sister 
healthy.

 
Physical Exam:
Upon admission:  ___

PE: 98.4 83 160/115 18 95% RA 
In stretcher, appears comfortable
left frontal scalp laceration sutured with underlyign eechymosis
left orbital eechymosis
No obvious bony skull deformities
PERRL
no hemoTM
septum midline, no deviation
Mild neck tenderness around C2-C3 without stepoffs
Trachea midline 
CN ___ intact
No sternal deformities, TTP left chest wall tenderness with deep
inspiration, no crepitus
Abd soft, NT/ND, midline scar noted, no hernias
left pelvic eechymosis
Pelvis stable
b/l hematomas over dorsum of hands
right knee hematoma
motor ___ throughout
gross sensation preserved
No step offs of back, some mild TTP between shoulders

Physical examination upon discharge: ___

vital signs:  99.1, hr=89, bp=125/50, rr-18, 96% room air

General: NAD, soft collar in place

CV:  ns1, s2, -s3, -s4, + Grade ___ systolic murmur, ___ ICS, 
LSC, RSB
LUNGS:  clear
ABDOMEN:  soft, non-tender
EXT:  No pedal edema, ecchymosis right knee, mild swelling,, 
ecchymosis upper ext. bil., mild edema right wrist
NEURO:  alert and oriented x 3, speech clear, no tremors

 
Pertinent Results:
___ 06:50AM BLOOD WBC-9.8 RBC-2.71* Hgb-8.2* Hct-24.9* 
MCV-92 MCH-30.3 MCHC-33.0 RDW-14.3 Plt ___
___ 09:10PM BLOOD Hct-25.9*
___ 08:57AM BLOOD WBC-11.7* RBC-3.04* Hgb-9.1* Hct-27.7* 
MCV-91 MCH-30.0 MCHC-32.9 RDW-14.2 Plt ___
___ 04:35PM BLOOD WBC-10.3# RBC-4.45 Hgb-13.4 Hct-39.9 
MCV-90 MCH-30.0 MCHC-33.6 RDW-13.9 Plt ___
___ 04:35PM BLOOD Neuts-69.3 ___ Monos-6.4 Eos-2.5 
Baso-0.5
___ 06:50AM BLOOD Plt ___
___ 06:50AM BLOOD ___ PTT-26.4 ___
___ 06:50AM BLOOD Glucose-96 UreaN-10 Creat-0.8 Na-138 
K-4.2 Cl-106 HCO3-23 AnGap-13
___ 08:57AM BLOOD CK(CPK)-55
___ 06:40AM BLOOD Lipase-22
___ 09:10PM BLOOD CK-MB-3 cTropnT-<0.01
___ 08:57AM BLOOD CK-MB-3 cTropnT-<0.01
___ 06:50AM BLOOD Calcium-7.9* Phos-2.3* Mg-1.9

___:  cat scan of the head:

1.  Moderate subgaleal hematoma along the left frontal area with 
small 
supraorbital hematoma and associated laceration. Intact globes. 
2.  Possible nondisplaced transverse fracture through 
right-sided lamina of C2. 
3.  No intraparenchymal hemorrhage. 

___:  cat scan abdomen and pelvis:

1. 3.5 cm hematoma within the left anterior subcutaneous tissue 
at the level of left iliac crest without underlying fracture. 
Punctate foci of hyperdensity is suspicious for pseudoaneurysm 
or small blush of active extravasation. 
2.  No solid organ injury. No retroperitoneal hematoma. 
3.  Multiple chronic fractures as described above. 
4.  Buckling of right anterior third through fifth ribs is of 
indeterminate age. 
5.  Mild intrahepatic and moderate to severe extrahepatic 
biliary duct 
dilatation with moderate pancreatic duct dilatation. Clinical 
and laboratory correlation is recommended. Recommend ERCP/MRCP 
for further evaluation. 

___:  cat scan of the chest:

1. 3.5 cm hematoma within the left anterior subcutaneous tissue 
at the level of left iliac crest without underlying fracture. 
Punctate foci of hyperdensity 
is suspicious for pseudoaneurysm or small blush of active 
extravasation. 
2.  No solid organ injury. No retroperitoneal hematoma. 
3.  Multiple chronic fractures as described above. 
4.  Buckling of right anterior third through fifth ribs is of 
indeterminate age. 
5.  Mild intrahepatic and moderate to severe extrahepatic 
biliary duct 
dilatation with moderate pancreatic duct dilatation. Clinical 
and laboratory correlation is recommended. Recommend ERCP/MRCP 
for further evaluation. 

___: cat scan of the c-spine:

.  Possible nondisplaced fracture of the right C2 lamina. 
2. Multilevel degenerative changes with stable mild 
anterolisthesis of C4 on C5. 
3. Stable bilateral apical pleural-parenchymal scarring. 

___: bilateral forearm:

Subtle cortical irregularity of the distal left ulna raises 
concern for 
nondisplaced fracture. No definite acute fracture seen 
elsewhere. 
  
3 mm radiopaque structure projecting over the mid shaft of the 
left radius could represent a retained foreign body. 
  
Chronic changes including suggestion of prior trauma at the 
distal right 
radius and ulna and osteoarthritic changes of the bilateral 
wrists, as above, better assessed on the dedicated wrist 
radiographs.

___:  right knee:

 Questionable lucency involving the lateral patella on the AP 
and oblique 
views, not well assessed on the lateral view. Sunrise view may 
further assess the patella. 
  
Prominent prepatellar soft tissue swelling/ possible hematoma.

___:  left humerus x-ray:

 Chronic fracture of the proximal left humerus with possible 
acute component seen on the Y-view.  Findings could be further 
assessed on CT or MRI if clinical concern for such.

___: CXR 

 No acute intrathoracic process seen. 

___:  bil. wrist x-ray:

Right scapholunate dissociation. Marked degenerative changes of 
both wrists. 
Difficult to exclude nondisplaced ulnar fracture as noted on 
forearm 
radiographs. No definite acute fracture seen elsewhere. 

  

  

  

  

  

 
Brief Hospital Course:
 ___ year old female admitted to the hospital after a mechanical 
fall from standing. There reportedly was no loss of 
consciousness.  She sustained a C2 lamina fracture,left humeral 
head fracture (acute on chronic), left ___ rib fractures,non 
displaced, and a pubic rami fracture.  The patient was made NPO 
upon admission and underwent imaging. 

 Because of her injuries, she was evalutated by the Ortho-Spine 
service for a minimally displaced bilateral laminae fractures of 
C2.  She had a normal neurologic examination.  Based on these 
findings, this injury was treated conservatively with cervical 
collar immobilization for 2 weeks and a follow-up visit. The 
Orthopedic service was consulted for pelvic and humeral 
fracture. They determined that the patient had an old proximal 
humerus fracture and a non-displaced verticle rim patella 
fracture. Neither injury required surgical repair and both were 
treated in a non-operative manner. The left shoulder injury was 
managed in a sling for comfort with advance ROM and AROM as 
tolerated.
The patella was not braced as the patient was not having pain 
with active
extension.  The patient's rib pain and other bony injuries were 
managed with oral analgesia.  She was instructed in the use of 
the incentive spirometer.  

During her hospital course, the patient's vital signs were 
stable and she was afebrile.  Her pain was controlled with oral 
analgesia.  She was tolerating a regular diet and voiding 
without difficulty.  She remained in a soft cervical collar for 
neck immobilization. The patient was seen by physical therapy 
and recommendations were made for discharge to a rehabilitation 
facility.

 The patient was discharged on HD # 3 in stable condition.  
Appointments for follow-up were made with the Spine, Orthopedic 
and acute care service.  The patient will also need follow-up 
with her primary care provider for findings on cat scan of 
biliary dilitation and the need for MRCP/ERCP.  Dr. ___ 
patient's primary care provider, was informed of the need for 
additional imaging.   
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
2. Celecoxib 100 mg oral DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Fluoxetine 40 mg PO DAILY 
5. Gabapentin 800 mg PO TID 
6. Levothyroxine Sodium 50 mcg PO DAILY 
7. Lorazepam 1 mg PO BID:PRN anxiety 
8. Mirtazapine 15 mg PO QHS 
9. Multivitamins 1 TAB PO DAILY 
10. Omeprazole 20 mg PO DAILY 
11. Senna 8.6 mg PO BID:PRN constipation 
12. Calcium Carbonate 500 mg PO BID 
13. Vitamin D 1000 UNIT PO DAILY 
14. Acetaminophen 325-650 mg PO Q6H:PRN pain 
15. LOPERamide 2 mg PO BID:PRN loose stools 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Fluoxetine 40 mg PO DAILY 
4. Gabapentin 800 mg PO TID 
5. Levothyroxine Sodium 50 mcg PO DAILY 
6. Lorazepam 1 mg PO BID:PRN anxiety 
7. Mirtazapine 15 mg PO QHS 
8. Omeprazole 20 mg PO DAILY 
9. Senna 8.6 mg PO BID:PRN constipation 
10. OxycoDONE (Immediate Release)  2.5-5 mg PO Q4H:PRN pain 
hold for increased sedation, resp. rate <12 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*12 Tablet Refills:*0
11. Acetaminophen 325-650 mg PO Q6H:PRN pain 
12. Calcium Carbonate 500 mg PO BID 
13. LOPERamide 2 mg PO BID:PRN loose stools 
14. Multivitamins 1 TAB PO DAILY 
15. Vitamin D 1000 UNIT PO DAILY 
16. Celecoxib 100 mg ORAL DAILY 
please take with food 
17. Heparin 5000 UNIT SC TID 
please start on ___ 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Trauma:  fall:

C2 lamina fracture
humeral head fracture (acute on chronic)
left ___ rib fracture non displaced
pubic rami fracture 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after a fall.  You sustained 
fractured ribs, pelvis  You also sustained a fracture to your 
arm.  You were seen by physical therapy and recommendations were 
made for discharge to a rehabilitation facility to further 
regain your strength and mobility.  
 
Followup Instructions:
___